US07947686B2
Step 5. Preparation of N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide [(XV), Ra=Rb=H, R=3,5-difluorophenyl]
To a mixture of N-[5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide (43.76 g, 106.65 mmol) and triethylamine (44.6 mL, 319.95 mmol) in dichloromethane (1 L), at room temperature, trityl chloride (31.22 g, 111.98 mmol) was added. The reaction was stirred at room temperature for 1 hour. The organic phase was washed with NaHCO3 saturated solution, water and brine, dried over sodium sulfate filtered and evaporated to dryness affording the crude title compound as white solid.

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide | 106.65 mmol, 43.76 g | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC=2C(CC1)=NNC2NC(C(F)(F)F)=O | C14H11F5N4O3S
reactant | triethylamine | 319.95 mmol, 44.6 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 111.98 mmol, 31.22 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-yl]-2,2,2-trifluoro-acetamide | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC2=C(CC1)N(N=C2NC(C(F)(F)F)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C33H25F5N4O3S
